US06635759B2
7-Methoxy-6-acetylamino-4-trifluoromethyl-2-(1H)-quinolone:
27,85 mg of 7-methoxy-6-amino-4-trifluoromethyl-2-(1H)-quinolone are dissolved in 0,5 ml of glacial acetic acid, mixed with 0.15 ml acetic acid anhydride and made to react for 2 hours at 20° C. After subtracting the solvent, the remainder is cleaned with Flash chromatography (silica gel, toluene/acetone 1:1). Yield: 30.7 mg (99%). Melting point 280° C. (toluene, dec), UV λ max 368 nm, emission max 448 nm, IR 1680 (CO).

reactant | 7-methoxy-6-amino-4-trifluoromethyl-2-(1H)-quinolone | 27,85 mg | COC1=C(C=C2C(=CC(NC2=C1)=O)C(F)(F)F)N | C11H9F3N2O2
reactant | acetic acid anhydride | 0.15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | toluene acetone | C1(=CC=CC=C1)C.CC(=O)C
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 0,5 ml | C(C)(=O)O | C2H4O2
product | 7-Methoxy-6-acetylamino-4-trifluoromethyl-2-(1H)-quinolone | COC1=C(C=C2C(=CC(NC2=C1)=O)C(F)(F)F)NC(C)=O | C13H11F3N2O3
